US08877975B2
To a solution of 1-(3,4-dichlorophenyl)cyclohexanecarbaldehyde (440 mg, 1.71 mmol) in anhydrous THF (17 mL) at 0° C. was added slowly methyl lithium (1.6 M in Et2O, 3.21 mL, 5.14 mmol). The solution was allowed to warm to RT and was stirred for 16 h. It was then quenched with MeOH (5 mL). The crude reaction mixture was poured into 2M HCl (15 mL) and washed with EtOAc (3×20 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated to give 1-(1-(3,4-dichlorophenyl)cyclohexyl)ethanol. HPLC Rt=11.28 min; 1H NMR (400 mHz, CDCl3) 7.44-7.41 (m, 2H), 7.20 (dd, J=2.2, 8.4 Hz, 1H), 3.63-3.58 (m, 1H), 2.39-2.35 (m, 1H), 2.14-2.10 (m, 1H), 1.67-1.48 (m, 5H), 1.31-1.16 (m, 3H), 0.92 (d, J=6.6 Hz, 3H).

reactant | 1-(3,4-dichlorophenyl)cyclohexanecarbaldehyde | 1.71 mmol, 440 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C=O | C13H14Cl2O
reactant | methyl lithium | 5.14 mmol, 1.6 M, 3.21 mL | C[Li]
reactant | HCl | 2M, 15 mL | Cl | ClH
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 1-(1-(3,4-dichlorophenyl)cyclohexyl)ethanol | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(C)O | C14H18Cl2O
